US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-6-acetoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(5-acetoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.35 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.135 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.25 g); mp 190°-200° C.; MS: m/z=573(M+1); NMR(CD3SOCD3): 1.63 (broad,6), 2.14 (broad,3), 2.27 (s,3), 2.7 (broad,1), 3.6 (m,3), 4.22 (m,1), 4.85 (d,1, J=3.6), 7.09 (m,5), 7.95 (d,1 J=8.2). Analysis for C29H34Cl2N4O4.2.0 HCl.1.0 H2O: Calculated: C, 52.42; H, 5.76, N, 8.43; Found: C, 52.83; H, 5.58; N, 8.31.

reactant | 3-(3,4-Dichlorophenyl)-3-(5-acetoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.35 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)OC(C)=O)=O)C | C20H17Cl2NO4
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.135 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-6-acetoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.25 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=CC(=CC=C12)OC(C)=O)=O)C | InChI=1S/C29H34Cl2N4O4.ClH/c1-18(36)39-21-5-6-23-24(17-21)28(37)33(2)27(23)22(19-4-7-25(30)26(31)16-19)10-15-34-13-8-20(9-14-34)35-12-3-11-32-29(35)38;/h4-7,16-17,20,22,27H,3,8-15H2,1-2H3,(H,32,38);1H
